Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
nuts / plums / apples / Cherries
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with ___

 
History of Present Illness:
___ w/ PMHx HTN, HLT, prior DVT
status post MVA treated with Coumadin, and hypothyroidism who
initially presented with symptoms consistent with unstable 
angina
at 4 ___ on the day of admission. 

Patient reports being at work this afternoon and developing
sudden onset substernal "knot-like" chest pain which was
accompanied by SOB. He said he had been experiencing brief
episodes like this over the last few days at home that had been
waking him up from sleep. He took Tylenol, and the episodes
resolved after a few minutes. Today, he was concerned enough
about the pain that he decided to come in to the ED.  

In the ED, the patient had an EKG demonstrating ST elevations in
V2 through V4. He was given a full dose aspirin. He had cardiac
angiography (access R radial) which revealed a 99% stenosis of
the proximal LAD as well as moderate coronary artery disease of
the RCA and ramus. A single drug-eluting stent was placed,
patient tolerated procedure well. There was noted to be some
distal embolization into the LAD. He was put on tirofiban in the
cath lab and also loaded with ticagrelor.

On the floor, the patient reported being chest pain free and 
said
he was quite comfortable. He specifically denied dizziness, LH,
CP, SOB, palpitations, or n/v. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes, none, last hemoglobin A1c 5.4% ___  
- Hypertension, not on medications  
- Dyslipidemia  
2. CARDIAC HISTORY  
# CORONARIES: Three-vessel coronary artery disease, status post
drug-eluting stent placement to the LAD  
# PUMP: Unknown  
# RHYTHM: NSR   
3. OTHER PAST MEDICAL HISTORY  
-Prior clearance of hepatitis B infection  
-DVT status post MVA treated with warfarin  
-Hypothyroidism  
-Cataracts  
 
Social History:
___
Family History:
No significant cardiac medical history. 
 
Physical Exam:
ADMISSION EXAM
==============
VS: 98.0 151/74 75 18 100% RA   
GENERAL: Pleasant, middle-aged M in NAD. Sitting comfortably in
bed during interview.  
HEENT: NCAT, MMM 
NECK: Supple. JVP of ~9 cm.  
CARDIAC: RRR, no m/r/g 
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NT/ND, BS+  
EXTREMITIES: WWP, no c/c/e, R radial access site w/ TR band in
place 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM
==============
Vitals: T 98 BP 128/73 HR 56 RR 18 O2 96   
Telemetry: normal sinus rhythm   
General:  
GENERAL: Pleasant, middle-aged M in NAD. Sitting comfortably in
bed during interview.  
HEENT: NCAT, MMM 
NECK: Supple. no jugular venous distension 
CARDIAC: RRR, no m/r/g 
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NT/ND, BS+  
EXTREMITIES: WWP, no c/c/e, R radial access site w/ TR band in
place 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:15PM BLOOD WBC-7.5 RBC-4.16* Hgb-13.5* Hct-40.6 
MCV-98 MCH-32.5* MCHC-33.3 RDW-13.3 RDWSD-47.8* Plt ___
___ 05:15PM BLOOD ___ PTT-29.2 ___
___ 05:15PM BLOOD Plt ___
___ 05:15PM BLOOD Glucose-106* UreaN-16 Creat-0.9 Na-144 
K-4.5 Cl-106 HCO3-25 AnGap-13
___ 05:15PM BLOOD ALT-19 AST-64* AlkPhos-57 TotBili-0.3
___ 05:15PM BLOOD cTropnT-0.75*
___ 05:15PM BLOOD Albumin-4.0

___ CARDIAC CATH
Coronary Anatomy
Dominance: Co-dominant
* Left Main Coronary Artery
The LMCA is free of significant disease.
* Left Anterior Descending
The LAD has 99% proximal and thena distal cutoff at apex.
* Circumflex
The Circumflex has 30% origin stenosis. A Large ramus 
intermedius has 60% focal stenosis.
* Right Coronary Artery
The RCA has diffuse mid 60% stenosis.

Interventional Details
a 6 ___ XB LAD 3.5 guide provided good support. A Prowater 
wire was delivered easily just beyond
the distal cutoff and could not be delivered more distal. The 
lesion was predilated with 2.0 ballon at 6
ATM and stented with 3.0 x 20 Promus DES at 16 ATM. The mid and 
proximal segments wer epost
dilated with 3.25 NC balloon at 16 ATM. WE delivered a 1.5 
balloon beyond the distal cutoff and
performed an inflatioin at 6 ATM, but there was no improvement 
in this lesion, presumably due to distal
embolus. Final angio showed TIMI 3 flow to the point of distal 
occlusion, no dissection, and 0% residual.
Intra-procedural Complications: None

Impressions:
1. Three vessel CAD.
2. Anterior STEMI.
3. Successful PCI LAD.

Recommendations
1. ASA 81 mg daily; Ticagrelor 90 mg BID.
2. High dose statin
3. Beta blockers and ACE inhibitors per Cardiology team.

___ TTE
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction with mid to 
distal septal hypokinesis suggested. No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. EF 45-50%.

DISCHARGE LABS
==============
___ 10:45AM BLOOD WBC-6.1 RBC-4.31* Hgb-14.3 Hct-43.3 
MCV-101* MCH-33.2* MCHC-33.0 RDW-13.4 RDWSD-49.9* Plt ___
___ 10:45AM BLOOD Plt ___
___ 10:45AM BLOOD ___
___ 10:45AM BLOOD Glucose-101* UreaN-17 Creat-1.1 Na-140 
K-4.4 Cl-103 HCO3-25 AnGap-12
___ 10:45AM BLOOD Calcium-9.2 Phos-2.4* Mg-2.0
 
Brief Hospital Course:
HOSPITAL COURSE
===============
___ w/ PMHx HTN, HLT, prior DVT status post MVA treated with
Coumadin, and hypothyroidism who initially presented with
symptoms consistent with unstable angina at 4 ___ on the day of
admission. Now s/p ___ to LAD.

ACTIVE ISSUES
=============
# Anterior STEMI: Patient had anginal chest pain on presentation 
to the hospital. EKG demonstrating ST elevations in V2-V4 and 
troponin elevation. Patient taken to cath lab where coronary 
catheterization demonstrated the LMCA free of significant 
disease. The LAD had 99% proximal and then a distal cutoff at 
apex. The Circumflex had 30% origin stenosis. A Large ramus 
intermedius had 60% focal stenosis. The RCA has diffuse mid 60% 
stenosis. A drug elution stent was placed in the LAD. Patient 
was continued on aspirin 81mg, ticagrelor 90mg BID, atorvastatin 
80mg QDAY. He was also started on lisinopril 2.5mg and 
metoprolol 6.25 mg BID. Chest pain resolved on the floor and 
patient was asymptomatic. Notably, TTE showed 45% to 50% after 
intervention.

CHRONIC ISSUES
==============
# Hypertension: Patient was not on hypertensive medications 
while at home. He was started on lisinopril 2.5mg and metoprolol 
tartrate 6.25 BID.

# Hypothyroidism: Continued home levothyroxine 50 mg PO

TRANSITIONAL ISSUES
===================
[] PCP appointment pending, patient to call ___ if not 
made in next 2 business days
[] Cardiology appointment pending, patient to call ___ 
if not made in next 2 business days; PCP to please ensure that 
patient makes this appointment 
[] Discharge weight 82.9 discharge creatinine 0.8
[] Patient is starting lisinopril and metoprolol; please assess 
patient response to these medications and titrate up as needed

# NEW MEDS: 
- Aspirin 81 mg PO/NG DAILY 
- Atorvastatin 80 mg PO/NG QPM 
- Lisinopril 2.5 mg PO/NG DAILY 
- Metoprolol Tartrate 6.25 mg PO/NG BID
- TiCAGRELOR 90 mg PO/NG BID 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Tartrate 6.25 mg PO BID 
RX *metoprolol tartrate 25 mg 0.25 tablet(s) by mouth Twice 
daily Disp #*15 Tablet Refills:*0 
5.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth 1 tablet 
twice a day Disp #*60 Tablet Refills:*0 
6.  Levothyroxine Sodium 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STEMI s/p stent placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You were in the hospital because you had chest pain. 

WHAT HAPPENED IN THE HOSPITAL?
==============================
While in the hospital we did an EKG which demonstrated that you 
were having a heart attack. We performed a coronary 
catheterization to visualize the vessels in your heart and 
placed a stent to open up blocked vessels. We also started you 
on two new medications for your blood pressure.
 
WHAT SHOULD I DO WHEN I GO HOME?
================================
Please continue to take your prescribed medications and follow 
up with any appointments scheduled for you.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___